### ISSUE TITLE
Gallery integrity: erdos-459 axiom f_lower_bound is inconsistent (proves False)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#41005]
## Integrity Issue (CRITICAL — inconsistent axiom)

**Proof**: erdos-459 (`proofs/Proofs/Erdos459Problem.lean`)
**Problem**: The axiom `f_lower_bound` is **logically inconsistent** with the concrete definition of `f`. Combined with a plain Lean+Mathlib theorem (`f 1 = 1`) it derives `False` in the kernel. Every downstream result (`erdos_459_solved`, `erdos_459`, `trivial_bounds`, ...) therefore rests on an unsound axiom base.

## Evidence

`f` special-cases `u = 1` to a junk value (lines 89–90):

```lean
noncomputable def f (u : ℕ) : ℕ :=
  if hu1 : u = 1 then 1            -- junk value for u = 1
  else Nat.find (exists_smooth_gt u hu1)
```

The code comment even states f "is only ever invoked ... at `u = 0` or `u ≥ 2`". But the lower-bound axiom accepts `u ≥ 1`, i.e. it **includes `u = 1`** (line 121):

```lean
axiom f_lower_bound (u : ℕ) (hu : u ≥ 1) : f u ≥ u + 2
```

At `u = 1` this asserts `f 1 ≥ 3`, while `f 1 = 1` by definition. Verified against the toolchain (v4.31.0, full Mathlib):

```lean
theorem f_one : f 1 = 1 := by unfold f; simp
theorem boom : False := by
  have h := f_lower_bound 1 (by norm_num)
  rw [f_one] at h
  omega
#print axioms boom
-- 'Erdos459.boom' depends on axioms: [propext, Classical.choice, f_lower_bound, Quot.sound]
```

`boom : False` compiles and depends only on `f_lower_bound` (plus the three standard axioms). This is a genuine inconsistency, not a docstring/count mismatch.

Note: the other bound axioms are safe — `f_upper_bound` (`u ≥ 2`), `f_prime` (`p` prime ⇒ `p ≥ 2`), `f_minimal_case` (`k ≥ 2` ⇒ `2^k - 2 ≥ 2`) all avoid the `u = 1` junk branch. Only `f_lower_bound`'s `u ≥ 1` hypothesis is too weak.

## Recommended Fix

Tighten the hypothesis to match `f_upper_bound` / `trivial_bounds` (the lower bound is only mathematically meaningful for `u ≥ 2`, since `f(1)` is undefined — no `v ≥ 2` is smooth w.r.t. `1`):

```lean
axiom f_lower_bound (u : ℕ) (hu : u ≥ 2) : f u ≥ u + 2
```

Then simplify the caller `trivial_bounds` (line 128–129):

```lean
theorem trivial_bounds (u : ℕ) (hu : u ≥ 2) : u + 2 ≤ f u ∧ f u ≤ u * u :=
  ⟨f_lower_bound u hu, f_upper_bound u hu⟩   -- was: f_lower_bound u (le_trans (by norm_num) hu)
```

No other declaration uses `f_lower_bound` at `u = 1`, so the mathematical content is preserved. Counts (6 axioms, 9 theorems, 6 defs, 0 sorries) and the `axiomatized` status/`axiom` badge are otherwise accurate.

---
Discovered during gallery integrity audit.
